US06921740B1
30 Parts of 3-dibutylamino-6-methyl-7-anilinofluoran as a black-color-forming dye precursor was pulverized in the presence of 70 parts of a 2.5% polyvinyl alcohol aqueous solution with a ball mill for 24 hours, to obtain a dye precursor dispersion. Then, 70 parts of N-(4-hydroxyphenyl)-p-toluenesulfonamide as an electron-accepting compound and 70 parts of 2-benzyloxynaphthalene as a sensitizer were pulverized together with 310 parts of a 2.5% polyvinyl alcohol aqueous solution with a ball mill to obtain a dispersion containing the electron-accepting compound having a volume average particle diameter of 2 μm or less. Further, 10 parts of 4-benzyloxy-4′-(2-methylglycidyloxy)diphenylsulfone was pulverized together with 90 parts of a 2.5% polyvinyl alcohol aqueous solution with a ball mill for 24 hours, to obtain a diphenylsulfone derivative dispersion. The above three dispersions were mixed, and while the dispersion mixture was stirred, the following additives were added and fully mixed with the dispersion mixture to obtain a coating color for forming a heat-sensitive recording layer.

reactant | N-(4-hydroxyphenyl)-p-toluenesulfonamide | OC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C13H13NO3S
reactant | 2-benzyloxynaphthalene | C(C1=CC=CC=C1)OC1=CC2=CC=CC=C2C=C1 | C17H14O
product | diphenylsulfone | C1(=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10O2S
